US06514964B1
Step B: (3-{[2-(2-bromophenyl)ethyl]amino}phenyl) methan-1-ol
2-(2-bromophenyl)-N-[3-(hydroxymethyl)phenyl]acetamide was dissolved THF (0.2 M), followed by addition of BH3·DMS (3 eq), and the reaction was heated to reflux with stirring. After 2 hrs, the mixture was cooled to room temperature, and quenched with excess 10% HCl. The mixture was heated to reflux for 1 hr, and then cooled to room temperature. After washing with EtOAc, the aqueous phase was made alkaline with 10% sodium carbonate, and extracted with EtOAc. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with EtOAc to afford a colorless solid. EI-MS m/z 307/309 (M+H)+

reactant | 2-(2-bromophenyl)-N-[3-(hydroxymethyl)phenyl]acetamide | BrC1=C(C=CC=C1)CC(=O)NC1=CC(=CC=C1)CO | C15H14BrNO2
reactant | BH3·DMS | 3 eq | B.CSC
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | (3-{[2-(2-bromophenyl)ethyl]amino}phenyl) methan-1-ol | BrC1=C(C=CC=C1)CCNC=1C=C(C=CC1)CO | C15H16BrNO
